US07211572B2
Methyl 9-benzyloxy-2-(3-chlorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylate (420 mg) was dissolved in tetrahydrofuran (8 ml)-water (2 ml), and 4N aqueous lithium hydroxide solution (0.58 ml) was added with stirring. After stirring at 70° C. for 1 hr, the mixture was concentrated. Water (5 ml) and then 5% aqueous potassium hydrogen sulfate solution (15 ml) were added with stirring. The precipitated crystals were collected by filtration to give 9-benzyloxy-2-(3-chlorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylic acid (352 mg).

reactant | Methyl 9-benzyloxy-2-(3-chlorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylate | 420 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=CC=C2)Cl)=O)C(=O)OC)=O | C24H21ClN2O5
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | lithium hydroxide | 4N, 0.58 ml | [OH-].[Li+]
product | 9-benzyloxy-2-(3-chlorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylic acid | 352 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=CC=C2)Cl)=O)C(=O)O)=O | C23H19ClN2O5
